US07994185B2
N-{2-fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide (150 mg, 0.287 mmol) and isobutylamine (0.288 mL, 2.87 mmol) the title compound was obtained as a light yellow solid (88 mg, 55% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.56 (s, 1H), 7.77-7.91 (m, 2H), 7.30-7.41 (m, 1H), 7.16-7.32 (m, 2H), 7.10 (d, J=1.1 Hz, 1H), 7.03 (d, J=3.4 Hz, 1H), 6.54 (dd, J=3.3, 1.7 Hz, 1H), 3.66 (t, J=4.6 Hz, 4H), 3.41 (t, J=4.5 Hz, 4H), 2.97 (br. s., 2H), 1.78 (dt, J=13.4, 6.7 Hz, 1H), 0.73-0.87 (m, 7H). MS (ESI): 559.0 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | 0.287 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H17ClFN5O4S2
reactant | isobutylamine | 2.87 mmol, 0.288 mL | C(C(C)C)N | C4H11N
product | N-{2-fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)N1CCOCC1)NS(=O)(=O)C=1OC=CC1 | C25H27FN6O4S2
